US04587059
494.0 g (2.074 moles) of 2,4-dicyanoglutaric acid diethyl ester were reacted in the absence of water with 44.8 g of polyoxymethylene (92%; 1.372 moles) and 3 g of a 30% solution of sodium methylate in methanol (0.0167 mole). The quantity of sodium methylate used corresponded to an excess of 1.25 millimoles per mole of dicyanoglutarate. The reaction was carried out over a period of 45 minutes at a temperature of 100° C.-130° C. The water present was then removed using an oil pump vacuum. Thermolysis produced 154.5 g (1.236 moles) of 2-cyanoacrylic acid ethyl ester after distillation. The yield thus amounted to 31.3% by weight, based on 2,4-dicyanoglutarate.

reactant | 2,4-dicyanoglutaric acid diethyl ester | 2.074 moles, 494.0 g | C(C)OC(C(CC(C(=O)OCC)C#N)C#N)=O | C11H14N2O4
reactant | polyoxymethylene | 1.372 moles, 44.8 g | O(C[*:2])[*:1]
reactant | sodium methylate | C[O-].[Na+]
reactant | dicyanoglutarate | C(#N)OC(CCCC(=O)OC#N)=O | C7H6N2O4
catalyst | methanol | 0.0167 mole | CO | CH4O
solvent | water | O | H2O
product | 2-cyanoacrylic acid ethyl ester | 1.236 moles, 154.5 g | C(C)OC(C(=C)C#N)=O | C6H7NO2
